* Z:\mnt\design.r\spice\examples\3545.asc
V1 IN 0 3.6
C1 OUT1 0 10µ
L1 N001 OUT1 1.5µ
R1 N003 0 255K
XU1 N001 N002 IN N005 N004 0 IN N007 0 IN N008 N006 N003 IN IN 0 LTC3545
R2 OUT1 N003 511K
C2 OUT1 N003 20p
C3 OUT2 0 10µ
L2 N004 OUT2 1.5µ
R3 N006 0 226K
R4 OUT2 N006 226K
C4 OUT2 N006 20p
C5 OUT3 0 10µ
L3 N007 OUT3 1.5µ
R5 N008 0 200K
R6 OUT3 N008 301K
C6 OUT3 N008 20p
R7 N002 IN 500K
R8 IN N005 500K
Rload1 OUT1 0 2.25
Rload2 OUT2 0 1.5
Rload3 OUT3 0 1.875
.tran 1m startup
.lib LTC3545.sub
.backanno
.end
